US05082856
To a solution (20 ml) of 1.47 g (5.0 mmol) of 5-tridecylpyrrole-3-carboxylic acid in tetrahydrofuran were added 0.60 g (5.53 mmol) of ethyl chlorocarbonate and 0.60 g (5.94 mmol) of triethylamine, and the whole was stirred at room temperature for 10 minutes. After adding 1.88 g (15 mmol) of 2-bromoethanol, the mixture was heated under reflux for 1.5 hours. After further addition of 0.94 (7.5 mmol) of 2-bromoethanol, the mixture was heated under reflux for 9 hours. The resulting mixture was cooled, acidified with a diluted hydrochloric acid and extracted with ethyl acetate. The extract was washed with water and dried over magnesium sulfate. A removal of the solvent under reduced pressure afforded an oily product, which was purified by subjecting it to column chromatography over silica gel (eluent: ethyl acetate/hexane=1/10) to obtain 1.05 g (53% yield) of 2-bromoethyl 5-tridecylpyrrole-3-carboxylate, m.p. 67°-69.5° C.

reactant | 5-tridecylpyrrole-3-carboxylic acid | 5.0 mmol, 1.47 g | C(CCCCCCCCCCCC)C1=CC(=CN1)C(=O)O | C18H31NO2
reactant | ethyl chlorocarbonate | 5.53 mmol, 0.60 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | triethylamine | 5.94 mmol, 0.60 g | C(C)N(CC)CC | C6H15N
reactant | 2-bromoethanol | 15 mmol, 1.88 g | BrCCO | C2H5BrO
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-bromoethyl 5-tridecylpyrrole-3-carboxylate | 1.05 g, 53% yield | C(CCCCCCCCCCCC)C1=CC(=CN1)C(=O)OCCBr | C20H34BrNO2
